Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman with history of hypertension 
and dementia, who was transferred from ___ after a fall 
with ___ pelvic fracture. Patient lives in an assisted living 
at ___. On the day of presentation she was attempting to 
stand up from the couch, but slipped and slid to the floor. She 
experienced sudden onset of pain in her L groin and was unable 
to get up after the fall due to weakness and pain. She denied 
dizziness, lightheadedness, chest pain, or palpitations prior to 
the fall. No head strike or LOC. She was brought to ___ 
where CT pelvis showed inferior and superior ___ pubic rami 
fractures extending into the acetabulum, unlikely to be 
displaced. Labs at OSH were remarkable for WBC 14.5, UA w/4+ 
bacteria, 14 WBC's and moderate leuks. She received Cefpodoxime 
for UTI and was transferred to ___ for evaluation by 
orthopedics.  
 
In the ED at ___, initial VS were: T 98.6 P 93 BP 196/74 
(improved to 160/94 prior to transfer) RR 18 O2 99% RA.  
Exam was notable for: intact skin, no visible deformity. Slight 
pain at L proximal fibula, full ROM, 1+ distal pulses.  
No labs were drawn, but multiple imaging studies were performed. 
CT head showed no intracranial hemorrhage and incidental finding 
of 1.0 cm osteoma or calcified meningioma anterior to the right 
temporal lobe. CT c spine showed no fracture and pain films of L 
femur/knee/ankle shoed no acute fractures, although subacute 
proximal L fibular fracture was identified.  
 
Ortho and physical therapy (___) were consulted. Ortho 
recommended ___ baring as tolerated. ___ recommended rehab, 
but because of patient's insurance she requires 3 inpatient 
nights before she can go to rehab. Patient was given 1g Tylenol 
and admitted to medicine for further management of hip fracture 
and likely urinary tract infection (UTI).  
 
On arrival to the floor, patient had no pain. On ROS she 
reported recent urinary urgency/frequency and occasional 
episodes of incontinence. No headache, vision changes, fevers, 
chills, chest pain, SOB, abdominal pain, nausea, vomiting or 
diarrhea.  
 
REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI.  
 

 
Past Medical History:
Dementia  
Hypertension
Anemia  

 
Social History:
___
Family History:
No known family history of dementia
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
===========================
VS: 97.8 177 / 89 90 18 91 Ra 
GENERAL: alert. Oriented to self only.
HEENT: EOMI, MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs 
LUNGS: CTAB, anteriorly  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: warm, trace pedal edema b/l. Mild TTP over L hip.
PULSES: 1+ DP pulses bilaterally  
NEURO: non focal  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

PHYSICAL EXAM ON DISCHARGE:
===========================
VS:  97.5 PO 176 / 82 102 18 95 Ra 
GENERAL: Alert. Oriented to self only.
HEENT: EOMI, MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs 
LUNGS: CTAB, anteriorly  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: warm, trace pedal edema b/l. Mild TTP over L hip.
PULSES: 1+ DP pulses bilaterally  
NEURO: non focal  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 08:50AM BLOOD ___ 
___ Plt ___
___ 08:50AM BLOOD Plt ___
___ 08:50AM BLOOD ___ 
___
___ 08:50AM BLOOD ___

LABS ON DISCHARGE:
==================
___ 05:31AM BLOOD ___ 
___ Plt ___
___ 05:31AM BLOOD Plt ___
___ 05:31AM BLOOD ___ 
___
___ 05:31AM BLOOD ___

MICRO:
======
___ 8:23 pm URINE

   URINE CULTURE (Preliminary): 
      GRAM NEGATIVE ROD(S).    ___ CFU/mL. 

___ Urine Culture at ___:
SPEC #: ___      ___      RECD: 
___   ___ #: ___

SOURCE: URINE                         
SPDESC: RANDOM                        

ORDERED:  URINE CULTURE                                          
                 

  URINE CULTURE  Final                                           
                      
     Organism 1                     ESCHERICHIA COLI
        COLONY COUNT:               >100,000 CFU/ML

     1. ESCHERICHIA COLI
                                      ___ M.I.C. 
                                      ------ ------ 
       AMIKACIN                         S       <=2 
       AMPICILLIN                       S         8 
       CEFAZOLIN                        S       <=4 
       GENTAMICIN                       S       <=1 
       IMIPENEM                         S    <=0.25 
       ERTAPENEM                        S     <=0.5 
       LEVOFLOXACIN                     R       >=8 
       NITROFURANTOIN                   S      <=16 
       PIPERACILLIN/TAZOBACTAM          S       <=4 
       TOBRAMYCIN                       S       <=1 
       TRIMETHOPRIM/SULFA               S      <=20 

IMAGING:
========
___ DX FEMUR & KNEE ___:
Subacute ___ proximal fibula fracture.  No other fractures.

___ ANKLE (AP, MORTISE & ___:
No comparison.  No periarticular soft tissue swelling.  No 
erosions.  There is symmetrical narrowing of the joint space at 
the level of the mortise, but no evidence of dislocation and no 
cortical disruption indicative of fracture.

___ CT ___ W/O CONTRAST:
1. No fracture. 
2. 3 mm of anterolisthesis of C4 on C5 is likely degenerative.  
Given absence 
of prior imaging studies, clinical correlation is advised. 
3. Multilevel degenerative changes, as described. 

___ CT HEAD W/O CONTRAST:
1. No gross intracranial hemorrhage or fracture. 
2. Probable calcified meningioma measuring up to 1 cm within the 
right middle 
cranial fossa abutting the anterior right temporal lobe. 

CR PELVIS: Performed at ___ HIP: Performed at ___ PELVIS: Performed at ___  

 
___ ___ Course:
___ year old woman with history of hypertension and dementia, who 
was transferred from ___ after fall with ___ pelvic 
fracture, incidentally found to have subacute L proximal fibular 
fracture and UTI. 

ACUTE ISSUES:
=============
#Mechanical Fall:
___ pelvic fracture:
#Subacute ___ proximal fibular fracture: 
Patient had a mechanical fall with subsequent ___ pelvic 
fracture. She was also found to have subacute ___ proximal 
fibular fracture. Per orthopedics, there was no need for 
surgical intervention. Physical therapy recommended rehab. Pain 
was controlled with Tylenol. 

#Urinary tract infection: 
Patient reported urinary symptoms of dysuria and frequency. She 
was initially started on ceftriaxone (day ___. ___ 
cultures grew E.coli sensitive to Bactrim. Ceftriaxone was 
switched to Bactrim. Patient's urinary symptoms resolved.

#Hypertension: The blood pressure was elevated to ___ 
systolic throughout the hospital stay. Patient is not on any 
blood pressure lowering meds. She was started on amlodipine 5 
mg.

CHRONIC ISSUES:
=============== 
#Dementia: Mental status appeared to be at baseline per niece.

***TRANSITIONAL ISSUES:***
- ___ in orthopedics trauma clinic in 2 weeks
- Weight baring activity as tolerated, may get aircast boot for 
LLE if patient feels it would be helpful
- Continue Bactrim for a total duration of 5 days (day 1 = 
___ day 5 = ___
- Patient was started on amlodipine for hypertension (SBP in 
170's); monitor blood pressure and adjust blood pressure 
lowering medications as needed
- Physical therapy at rehab

#CODE: DNR/Okay to intubate
#CONTACT: ___ (niece, HCP) ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q24H 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Mirtazapine 7.5 mg PO QHS 
4. Docusate Sodium 100 mg PO BID:PRN constipation 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  amLODIPine 5 mg PO DAILY  
3.  Sulfameth/Trimethoprim DS 1 TAB PO BID  
4.  Docusate Sodium 100 mg PO BID:PRN constipation  
5.  Ferrous Sulfate 325 mg PO DAILY  
6.  Mirtazapine 7.5 mg PO QHS  
7.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Mechanical Fall
___ pelvic fracture
Subacute ___ proximal fibular fracture 
Urinary tract infection

SECONDARY DIAGNOSES:
Hypertension
Dementia
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___ 
___. You came here because you had a fall and was 
found to have a pelvic fracture. The orthopedics team evaluated 
you and there was no indication for any surgery. The physical 
therapy recommended you go to rehab to regain your strength.

You were also found to have a urinary tract infection which was 
treated with antibiotics.

What should you do when you leave the hospital?
- Work with the physical therapy at your facility
- Follow up with orthopedics clinic as scheduled
- Your facility will arrange for an appointment with your 
primary care provider
- ___ as needed for pain
- Take the blood pressure medication amlodipine

We wish you all the best in health.

Your ___ TEAM

 
Followup Instructions:
___